US07268129B2
Step A: 7-Chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide
40 ml of ethyl orthoformate are added to 4.75 g of 2-amino-5-chlorobenzenesulphonamide, the preparation of which is described in the journal J. Chem. Soc. Perkin I 1979, 1043-1047. The mixture is heated at 110° C. for 30 minutes in an open vessel. Dissolution is observed, and then the appearance of a precipitate.

reactant | 2-amino-5-chlorobenzenesulphonamide | 4.75 g | NC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | ethyl orthoformate | 40 ml | C(OCC)([O-])[O-]
product | 7-Chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC=NS2(=O)=O)C=C1 | C7H5ClN2O2S
